US04465509
B. Preparation of 1-(2-methyl-α-methylbenzyl)-1-methyl-3-(α,α-diethylbenzyl) urea (Compound No. 42)
A mixture consisting of 9.5 g of α,α-diethylbenzylisocyanate and 7.5 g of N-(2-methyl-α-methylbenzyl)-N-methylamine was allowed to stand for 3 hours at room temperature. The white deposit formed was then filtered off. Washing with n-hexane and recrystallization from ethanol gave 15.9 g of the product, mp 93.0°-94.0° C.

reactant | α,α-diethylbenzylisocyanate | 9.5 g | C(C)C(C1=CC=CC=C1)(CC)N=C=O | C12H15NO
reactant | N-(2-methyl-α-methylbenzyl)-N-methylamine | 7.5 g | CC1=C(C(C)NC)C=CC=C1 | C10H15N
product | 1-(2-methyl-α-methylbenzyl)-1-methyl-3-(α,α-diethylbenzyl) urea | 15.9 g | CC1=C(C(C)N(C(=O)NC(C2=CC=CC=C2)(CC)CC)C)C=CC=C1 | C22H30N2O
